US07923450B2
b) 2-Methoxy-4-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-ylamino)-benzonitrile
Trifluoroacetic acid anhydride (257 uL, 1.83 mmol) was added slowly to a cooled suspension of 2-methoxy-4-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-ylamino)-benzamide (625 mg, 1.65 mmol) in dioxane (2 mL) and pyridine (292 uL, 3.6 mmol). The white suspension was stirred for 30 minutes under cooling and then for 2 hours at 50° C. and for 3 hours at 80° C. Additional trifluoroacetic acid anhydride (300 uL), pyridine (400 uL) and dioxane (5 mL) were added and the reaction was stirred at 80° C. for 2 hours resulting in a clear brown solution. The solvent was removed under reduced pressure and the residue was partitioned between ethyl acetate and water. The organic layer was washed twice with saturated aqueous sodium hydrogen carbonate, brine, dried over magnesium sulfate, filtered and the solvent was removed under reduced pressure. The residue was purified on silica gel using dichloromethane with 4% methanol as eluent to yield the title compound (236 mg, 40%) as a beige foam. MS ISP (m/e): 362.3 (100) [(M+H)+].

reactant | Trifluoroacetic acid anhydride | 1.83 mmol, 257 uL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2-methoxy-4-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-ylamino)-benzamide | 1.65 mmol, 625 mg | COC1=C(C(=O)N)C=CC(=C1)NC=1SC2=C(N1)C(CCC2)C2=CC=CC=C2 | C21H21N3O2S
reactant | pyridine | 3.6 mmol, 292 uL | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic acid anhydride | 300 uL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | pyridine | 400 uL | N1=CC=CC=C1 | C5H5N
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-Methoxy-4-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-ylamino)-benzonitrile | 236 mg, 40% | COC1=C(C#N)C=CC(=C1)NC=1SC2=C(N1)C(CCC2)C2=CC=CC=C2 | C21H19N3OS
